Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
risperidone / Zyprexa / Invega / cephalexin
 
Attending: ___
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with history of
bipolar disorder who presents from ___ with rash and
transaminitis.

The patient reports that about three weeks ago his psychiatrist
called police to bring him to the hospital due to psychiatric
decompensation. The patient reports that this is untrue and that
he was doing well at home. He reports frustration with his
outpatient psychiatrist. He reports that prior to
hospitalization, he had not taken any medications in ___ years.
He reports rare Tylenol use, rare alcohol (1 drink per month),
CBD pill use but otherwise no supplements.

The patient was admitted to ___ on ___. Per
review of admission note, the patient was brought in by police
because people at his employment were concerned due to increase
in psychotic decompensation. On presentation, he was noted to be
"very cooperative, very delusion, grandiose, and extraordinarily
paranoid." There, he was started on several psychiatric
medications including chlorpromazine, risperidone, and lithium
(started ___. 

Of additional note, the patient states that around ___ while at
___ he felt a sharp bite on his left ankle. He
subsequently developed swelling of his left leg, and a small
amount of erythema surrounding the bite. He denies any 
purulence.
No fevers or chills. Per ___ records, he was started on
cephalexin 500 mg TID on ___. He was also prescribed topical
hydrocortisone. He presented to the ___ ED on ___ of
evaluation of left ankle swelling. At that time, labs were
notable for WBC 13.6; LFTs not checked at that visit. Ankle Xray
with soft tissue swelling and possible sclerotic focus but no
acute process. The patient was discharged back to ___.

The patient is unsure of the timing, but he believes that a few
days after his ED visit he began to develop a diffuse, pruritic
rash on his torso. Labs obtained on ___ at ___ notable
for WBC 15.3, plt 424, AST 124, ALT 263, Tb 0.3. On ___ labs
were repeated that were notable for WBC 16.5, plt 436, AST 163,
ALT 438, Tb 0.3, lithium level 0.3 (range 0.6-1.2). Given these
abnormal liver chemistries, the patient was referred to the ED
for further care.

In the ED, vitals: 98.3 81 119/69 16 100% RA 
Exam notable for: Derm: Urticarial/maculopapular rash on abdomen
that is pruritic. Psych: Normal judgment, mood appropriate for
situation
Labs notable for: WBC 16.4, plt 420, BUN/CR ___, AST 146, ALT
408, AP 99, Tb 0.2.
Consults: Hepatology, Psychiatry
Imaging: RUQUS, CXR
Patient given: Unasyn 3 g IV, vancomycin 1000 mg, nicotine 
patch,
benztropine 0.5 mg, lithium carbonate 1200 mg, Benadryl 50 mg 
PO,
ibuprofen 600 mg, fluticasone nasal pray, guaifenesin 10 mLx2,
chlorpromazine 100 mg

On arrival to the floor, the patient reports that he feels 
mildly
itchy. He otherwise denies any acute complaints including
abdominal pain, nausea, vomiting, changes in stool. He states
that his mood is excellent and denies any SI/HI. The patient
requests not to take any of his medication tonight.
 
Past Medical History:
- Bipolar disorder
- S/p car accident with left leg surgery, exploratory abdominal
surgery
 
Social History:
___
Family History:
No known family history of liver disease.
 
Physical Exam:
ADMISSION EXAM
VITALS: 98.7 135/79 86 16 98 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; left ankle/foot with
small amount of soft tissue swelling in comparison to right 
SKIN: Morbilliform rash on torso; small puncture site on left
inner ankle with small amount of surrounding erythema
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect; cooperative; linear though
process

DISCHARGE PHYSICAL EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Left ankle/foot with small amount of soft tissue swelling,
non-tender; no erythema
SKIN: Morbilliform rash on L side of torso continues to improve,
small puncture site
on left inner ankle, no significant erythema today
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: Thought linear, not responding to external stimuli. 
 
Pertinent Results:
ADMISSION RESULTS:
___ 05:25PM BLOOD WBC-16.4* RBC-4.29* Hgb-13.8 Hct-42.6 
MCV-99* MCH-32.2* MCHC-32.4 RDW-14.3 RDWSD-52.2* Plt ___
___:25PM BLOOD Glucose-89 UreaN-14 Creat-1.0 Na-141 
K-4.7 Cl-99 HCO3-27 AnGap-15
___ 05:25PM BLOOD ALT-408* AST-146* CK(CPK)-738* AlkPhos-99 
TotBili-0.2

HEPATITIS WORK-UP
___ 05:25PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 05:25PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 05:25PM BLOOD ___
___ 05:25PM BLOOD Acetmnp-NEG
___ 05:25PM BLOOD tTG-IgA-4
___ 05:25PM BLOOD HCV Ab-NEG

LIVER FUNCTION TREND
___ 05:25PM BLOOD ALT-408* AST-146* CK(CPK)-738* AlkPhos-99 
TotBili-0.2
___ 05:45AM BLOOD ALT-367* AST-128* LD(LDH)-326* 
CK(CPK)-439* AlkPhos-93 TotBili-0.2
___ 06:55AM BLOOD ALT-374* AST-120* AlkPhos-105 TotBili-0.2
___ 08:00AM BLOOD ALT-325* AST-93* AlkPhos-111 TotBili-0.3
___ 08:35AM BLOOD ALT-262* AST-62* AlkPhos-111 TotBili-0.2
___ 07:05AM BLOOD ALT-228* AST-58* AlkPhos-104 TotBili-0.3
___ 07:15AM BLOOD ALT-208* AST-51* AlkPhos-102 TotBili-0.2

OTHER PERTINENT INTERVAL LABS
___ 05:25PM BLOOD Lyme Ab-POS*
___ 05:25PM BLOOD LYME DISEASE ANTIBODY, IMMUNOBLOT-PND
___ 07:05AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND

RELEVANT IMAGING:
___ RUQUS:
IMPRESSION: 
Normal hepatic parenchyma without focal lesion identified.

DISCHARGE LABS:
___ 07:15AM BLOOD WBC-10.1* RBC-4.31* Hgb-14.0 Hct-42.2 
MCV-98 MCH-32.5* MCHC-33.2 RDW-13.9 RDWSD-50.4* Plt ___
___ 07:15AM BLOOD Glucose-91 UreaN-15 Creat-0.8 Na-144 
K-4.7 Cl-104 HCO3-28 AnGap-12
___ 07:15AM BLOOD ALT-208* AST-51* AlkPhos-102 TotBili-0.2
___ 07:15AM BLOOD Albumin-4.0 Calcium-9.1 Phos-4.7* Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of bipolar 
disorder who presents from ___ with rash and 
transaminitis, suspected DILI from cephalexin, now improved. 
Course complicated by ongoing concern for substantial risk of 
harm outside of the hospital given lack of adherence to 
medication (recently on high dose lithium, moderate dose 
chlorpromazine for acute mania and psychosis), and impaired 
insight and judgment in setting of untreated bipolar disorder 
requiring further inpatient psychiatric hospitalization.

# Transaminitis, hepatocellular, suspected drug induced liver 
injury secondary to cephalexin
# Morbilliform drug rash
# Leukocytosis
The chronicity is not perfectly clear, but the patient was 
started on cephalexin on ___ and several days later developed a 
diffuse morbilliform rash. The rash seems to predate the 
initiation of lithium, which was started per records on ___.
The patient was also recently initiated on chlorpromazine and
risperidone, although he has been on risperidone previously. 
Labs
checked at outside facility were notable for transaminitis,
leukocytosis, and thrombocytosis beginning on ___ and worsening
on ___. He has no significant eosinophilia. Patient has no
evidence of Hepatitis A, B, or C. Autoimmune markers were
negative. RUQUS without acute process. No significant Tylenol 
use
and Tylenol level negative. Overall suspect that culprit to his 
rash and transaminitis was likely cephalexin given time course. 
Consistent with this theory, LFTs improved with stopping this 
medication (although note he also did not receive any of his 
psychiatric meds while at ___ due to patient refusal; also see 
separate discussion of positive lyme Ab below). At discharge ALT 
208 AST 51 ALKPHOS 102 TBILI 0.2 from ALT 408 AST 146 ALKPHOS 99 
TBILI 0.2 on admission. Please recheck on ___ to ensure 
continued downtrend. Should new medications be introduced, 
please note that transaminitis has not yet fully resolved and 
would avoid hepatotoxic medications and add them gradually.

# Positive Lyme Ab: As part of work up, lyme antibodies were 
sent, returned on ___ with +Lyme C6Ab, with Western blot 
pending. He does live in an lyme endemic area but no known tick 
bite or outdoors exposure (although does report being bitten by 
an insect while at ___). At present without evidence of 
meningitis, radiculopathy, mononeuritis, cranial nerve palsy, 
arthritis, carditis. His rash is not classic for lyme. Western 
blot, anaplasma antibodies pending on discharge. Parasite smear 
negative. Will need to follow up on western blot to determine 
whether warrants treatment.

# Suspected arthropod bite: Patient describes clear history of
being bitten on left ankle and subsequently development of
swelling of left foot and ankle, and small amount of erythema. 
On
exam, he has small puncture site on left ankle, with faint
erythema surrounding this and mild swelling of left ankle and
foot in relation to right. Suspect that this is local reaction 
to
arthropod bite and not cellulitis. In any case, the patient had
completed 7 days of antibiotics, and given suspected antibiotic
drug rash and liver injury, as well as clinical improvement, no
further antibiotics (unless lyme western blot returns positive)

# Leukocytosis
# Thrombocytosis: Suspect that this is inflammatory related to
medication reaction as above. Lower suspicion for active
infection including cellulitis. Improved with holding 
antibiotics, on discharge 10.1.

# Bipolar disorder: Patient initially admitted to ___ 
___ ___, brought in by police as people at his job were
concerned due to worsening psychosis (he denies all of this). He 
had not been sleeping or eating, heavy cannabis use, appearing 
hyperactive, bizarre behavior (not described), pressured speech, 
intense religiosity, paranoia, no taking meds for a long time, 
utox +cocaine and +THC. Recently started lithium, ___ 
lithium level drawn at ___ was subtherapeutic 0.3 
(0.6-1.2). 

In obtaining collateral from patient's mother/permanent legal 
guardian C ___ ___ has bipolar 
disorder, often very severe episodes, characterized by mania, 
grandiosity, delusions, paranoia about others, very moody and 
often angry, does not think he is ill, does not think he needs 
treatment. She reports approx 35 psychiatric hospitalizations 
over last ___ years. No known history of violence toward others, 
no previous suicide attempts. Unfortunately his ___ monitor 
expired last year.

During stay at ___, patient repeatedly reported that he feels 
that he does not need to go back to ___. He 
declined to take any of his psychiatric medications, reporting 
that he does not need them. He clearly demonstrated impaired 
insight and judgment, and had high risk feature of untreated 
mood disorder. Hence, he was placed on ___ by our 
psychiatry team. After discussion between psychiatry, outpatient 
PACT team, and patient's guardian, given ongoing concern for 
substantial risk of harm outside of the hospital given lack of 
adherence to medication (recently on high
dose lithium, moderate dose chlorpromazine for acute mania and 
psychosis), and impaired insight and judgment; will pursue
inpatient psychiatric hospitalization for further stabilization, 
diagnostic clarification, psychopharmacologic evaluation, 
psychotherapeutic interventions, family work, coordination with 
PACT, and aftercare planning. 

TRANSITIONAL ISSUES:
====================
[] Documented cephalexin as allergy
[] LFT on discharge ALT 208 AST 51 ALKPHOS 102 TBILI 0.2, please 
recheck ___ to ensure downtrend
[] WBC on discharge 10.1, please recheck ___ to ensure 
downtrend
[] Follow up pending studies: Lyme western blot, parasite smear, 
anaplasma IgM/IgG
[] Please AVOID hepatotoxic medications; would gradually 
re-introduce new medications
[] Patient on ___. Patient refused all psychiatric 
medications during stay here with us. Please note he currently 
does not have ___ guardian.
[] Please continue to titrate psychiatric medications and 
coordinate with ___, plan for aftercare as you are
[] Please note that patient is hepatitis B nonimmune

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 1 mg PO QAM 
2. Benztropine Mesylate 0.5 mg PO QAM 
3. Benztropine Mesylate 1 mg PO QHS 
4. fluticasone propionate 50 mcg/actuation nasal DAILY 
5. Cephalexin 500 mg PO Q8H 
6. Lithium Carbonate 1200 mg PO QHS 
7. ChlorproMAZINE 100 mg PO QAM 
8. hydrocorTISone 1 % topical BID 
9. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
10. nicotine (polacrilex) 2 mg buccal DAILY:PRN 
11. DiphenhydrAMINE 100 mg PO QHS:PRN insomnia 
12. Ibuprofen 400 mg PO Q4H:PRN Pain - Mild 
13. ChlorproMAZINE 200 mg PO QHS 
14. RisperiDONE 3 mg PO QHS 
15. Milk of Magnesia 30 mL PO QHS:PRN Constipation - First Line 
16. Mylanta 30 mL oral Q4H:PRN Dypepsia 
17. ChlorproMAZINE 100 mg PO Q4H:PRN Racing thoughts 
18. Benztropine Mesylate 0.5 mg PO Q8H:PRN extrapyramidal 
symptoms 
19. Clotrimazole Cream 1 Appl TP BID 
20. GuaiFENesin 10 mL PO Q6H:PRN cough 

 
Discharge Medications:
1.  LORazepam 1 mg PO Q8H:PRN anxiety  
2.  Benztropine Mesylate 0.5 mg PO QAM  
3.  Benztropine Mesylate 1 mg PO QHS  
4.  Benztropine Mesylate 0.5 mg PO Q8H:PRN extrapyramidal 
symptoms  
5.  ChlorproMAZINE 100 mg PO QAM  
6.  ChlorproMAZINE 200 mg PO QHS  
7.  ChlorproMAZINE 100 mg PO Q4H:PRN Racing thoughts  
8.  DiphenhydrAMINE 100 mg PO QHS:PRN insomnia  
9.  Lithium Carbonate 1200 mg PO QHS  
10.  nicotine (polacrilex) 2 mg buccal DAILY:PRN  
11.  RisperiDONE 3 mg PO QHS  
12.  RisperiDONE 1 mg PO QAM  
13. HELD- Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
This medication was held. Do not restart Acetaminophen until 
your liver function tests normalize and your doctor says you can

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Transaminitis, suspected drug induced liver injury
Rash
Suspected arthropod bite
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You were sent to us from an inpatient psychiatric facility 
because it was discovered that you had elevated liver enzymes.
While you were at ___, we sent work up for possible causes of 
elevated liver enzymes, and also held your antibiotic 
(cephalexin). Your liver enzymes subsequently improved. Overall, 
given that you had a rash mere days after starting the 
antibiotic, and that your liver function improved by us not 
giving you this medication, we suspect that the initial liver 
injury was likely related to this medication. 

We also did discover that you had positive lyme antibody, but 
are waiting for confirmatory testing. If the confirmation test 
is positive, then you will need antibiotics. 

You were evaluated by our inpatient psychiatry team, who are 
worried about your ability to take care of self in setting of 
refusal to take psychiatric medications. Hence you are 
recommended for further inpatient psychiatric hospitalization.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___